US07192982B2
3-(4-Benzyloxy-3-methyl-phenyl)-3-hydroxy-2-methoxy-propionic acid ethyl ester
To a solution of NaHMDS (1.1 eq) in dry THF at −78° C. a mixture of 4-Benzyloxy-3-methyl-benzaldehyde (1 eq) and Methoxy-acetic acid methyl ester (1.25 eq) in THF were added dropwise and the mixture reaction at this temperature over 1.5 hours. Then the reaction was quenched with HCl 3N and allowed to rise room temperature. Washed with brine and extracted with ether. The organic layer was dried and concentrated to dryness to give after chromatography in silica gel the title product.

reactant | NaHMDS | 1.1 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-Benzyloxy-3-methyl-benzaldehyde | 1 eq | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)C | C15H14O2
reactant | Methoxy-acetic acid methyl ester | 1.25 eq | COC(COC)=O | C4H8O3
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-Benzyloxy-3-methyl-phenyl)-3-hydroxy-2-methoxy-propionic acid ethyl ester | C(C)OC(C(C(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)C)OC)=O | C20H24O5
